US07812040B2
N-(((trans)-3-(2-chloro-3-((pyrrolidin-1-yl)methyl)phenoxy)cyclobutyl)methyl)-1-methylcyclopropanecarboxamide hydrochloride.
CDI (110 mg, 0.70 mmol) was added to a solution of 1-methylcyclopropanecarboxylic acid CAS 6914-76-7 (102 mg, 1.0 mmol) in THF (2 ml) at RT under stirring, the mixture was stirred at RT for 1 h. Example 386, ({trans-3-[2-Chloro-3-(pyrrolidin-1-ylmethyl)phenoxy]cyclobutyl}methyl) amine (200 mg, 0.7 mmol) was added to the mixture and the solution was stirred at RT for 20 h and evaporated. The residue was purified by chromatography (silica gel, 63-100 μm, 5 g, hexane/CHCl3 20:80→0:100, then CHCl3/MeOH 100:0→95:5). The residue was dissolved in ether (1 mL). 4N HCl/dioxane (0.20 mL) was added, and the reaction mixture was evaporated to dryness. The obtained crystals were washed with ether and dried in vacuo to give the title compound (135 mg, 48%) as beige crystals. LC/MS data: 377.1 (M+H) (calculated for C21H29ClN2O2 376.93). 1H NMR-data (DMSO-d6): 10.53 (br.s, 1H, NH+); 7.49-7.78 (m, 1H, NH); 7.32-7.43 (m, 2H, Ar—H); 6.95-7.03 (m, 1H, Ar—H); 4.80-4.92 (m, 1H), 4.42-4.56 (m, 2H); 3.39-3.47 (m, 2H); 3.18-3.25 (m, 2H); 3.07-3.18 (m, 2H); 2.39-2.47 (m, 1H); 2.27-2.34 (m, 2H); 1.97-2.17 (m, 4H); 1.84-1.95 (m, 2H); 1.25 (s, 3H); 0.92-0.96 (m, 2H), 0.46-0.52 (m, 2H).

reactant | CDI | 0.70 mmol, 110 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-methylcyclopropanecarboxylic acid | CC1(CC1)C(=O)O | C5H8O2
reactant | ({trans-3-[2-Chloro-3-(pyrrolidin-1-ylmethyl)phenoxy]cyclobutyl}methyl) amine | 0.7 mmol, 200 mg | ClC1=C(O[C@@H]2C[C@H](C2)CN)C=CC=C1CN1CCCC1 | C16H23ClN2O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | N-(((trans)-3-(2-chloro-3-((pyrrolidin-1-yl)methyl)phenoxy)cyclobutyl)methyl)-1-methylcyclopropanecarboxamide hydrochloride | 135 mg, 48% | Cl.ClC1=C(O[C@@H]2C[C@H](C2)CNC(=O)C2(CC2)C)C=CC=C1CN1CCCC1 | InChI=1S/C21H29ClN2O2.ClH/c1-21(7-8-21)20(25)23-13-15-11-17(12-15)26-18-6-4-5-16(19(18)22)14-24-9-2-3-10-24;/h4-6,15,17H,2-3,7-14H2,1H3,(H,23,25);1H/t15-,17-;
